US07902369B2
1) Manufacture of 6-bromo-2-(N-methoxy-N-methyl-carbamoyl)-imidazo[1,2-a]pyridine
850 mg of 6-bromo-2-hydroxycarbonyl-imidazo[1,2-a]pyridine, 519 mg of N-methoxy-N-methyl-amine hydrochloride, and 1.12 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were dissolved in 10 ml of pyridine, and the mixture was stirred at room temperature for 2 days. Water was added to the obtained solution, and the products were extracted with ethyl acetate. Organic layer was washed with saturated sodium chloride aqueous solution, and dried with anhydrous magnesium sulfate. Then, the solvents were distilled outunder reduced pressure. The obtained residues were purified by silicagel column chromatography (ethyl acetate) to obtain 362 mg of the above compound.

reactant | 6-bromo-2-hydroxycarbonyl-imidazo[1,2-a]pyridine | 850 mg | BrC=1C=CC=2N(C1)C=C(N2)C(=O)O | C8H5BrN2O2
reactant | N-methoxy-N-methyl-amine hydrochloride | 519 mg | Cl.CONC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.12 g | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-bromo-2-(N-methoxy-N-methyl-carbamoyl)-imidazo[1,2-a]pyridine | 362 mg | BrC=1C=CC=2N(C1)C=C(N2)C(N(C)OC)=O | C10H10BrN3O2
